Name:  ___.                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
amoxicillin / Cipro / Percocet / Vicodin / Nexium / doxycycline
 
Attending: ___.
 
Chief Complaint:
Unable to tolerate POs or G-tube feeds 

 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms. ___ is an ___ year old woman with PMH significant for lung 
cancer s/p thoracic surgery and radiation c/b injury 
necessitating g-tube placement who presents from ___ for 
evaluation of ongoing weight loss, nausea, and inability to 
tolerate PO and g tube intake.

She had lung cancer diagnosed in ___ that was initially treated 
by surgical resection. In ___ during regular screening, a new 
nodule was noted, and she was treated with radiation therapy. 
Afterwards she had dysphagia and had difficulty with POs. She 
tried various forms of ___ with limited improvement. To 
supplement her poor PO intake she had a G-tube placed in 
___.

Following the G-tube placement she had worsened dysphagia, and 
she had difficulty tolerating G-tube feeds. This has been 
getting progressively worse over the past 6 months since when 
the G-tube was originally placed. She notes that over the past 
few weeks she has been having intense nausea and occasional 
emesis of undigested contents with any type of oral or G tube 
intake. She has lost over 20 pounds. She feels chest 
pain/pressure when she has g/tube feedings. Intermittently she 
has a sour and bitter taste in her mouth, and throughout the 
evenings she has secretions pooling in her mouth. During this 
time she also notes a new dry cough. She denies any abdominal 
pain. She continues to have normal bowel movements that are 
well-formed and nonbloody. 

 
Past Medical History:
Lung CA (unclear type) s/p radiation and thoracic surgery
(unknown operation) in ___ c/b need for gtube placement
HTN
HLD
GERD
Tension HA
Allergic rhinitis

 
Social History:
___
Family History:
No known prior history of GI motility issues
 
Physical Exam:
PHYSICAL EXAM ON ADMISSION:
===========================
VS:  98.3 PO 135 / 68 92 18 92 Ra 
GENERAL: NAD, cacechtic 
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva,
MMM
NECK: supple, no LAD, no JVD  
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles  
ABDOMEN: nondistended, nontender in all quadrants, no
rebound/guarding, g-tube well positioned without drainage or
erythema  
EXTREMITIES: no cyanosis, clubbing, 1+ pitting and non-pitting
edema to knees bilaterally
PULSES: 2+ DP pulses bilaterally  
NEURO: A&Ox3, moving all 4 extremities with purpose  
SKIN: warm and well perfused, no excoriations or lesions, no
rashes  

PHYSICAL EXAM ON DISCHARGE:
===========================
Vitals: 97.6 PO 120 / 70 R Lying 95 16 95 RA 
General: Thin lady, well appearing, no acute distress
HEENT: Sclera anicteric, conjunctiva clear 
Lungs: Clear to auscultation bilaterally, no wheezes, rales,
rhonchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs,
gallops  
Abdomen: soft, non-tender, non-distended, G-tube noted is clean,
dry, intact, no surrounding erythema  
Ext: Warm, well perfused, 2+ pulses, evidence of anasarca on 
exam
Neuro: AOx3, CNSII-XII grossly normal

 
Pertinent Results:
LABS ON ADMISSION:
==================
___ 02:40AM BLOOD WBC-8.7 RBC-4.83 Hgb-14.1 Hct-42.1 MCV-87 
MCH-29.2 MCHC-33.5 RDW-13.6 RDWSD-43.3 Plt ___
___ 02:40AM BLOOD Neuts-84.1* Lymphs-7.2* Monos-7.5 
Eos-0.5* Baso-0.2 Im ___ AbsNeut-7.31* AbsLymp-0.63* 
AbsMono-0.65 AbsEos-0.04 AbsBaso-0.02
___ 02:40AM BLOOD ___ PTT-27.2 ___
___ 02:40AM BLOOD Glucose-117* UreaN-16 Creat-0.5 Na-132* 
K-5.0 Cl-89* HCO3-24 AnGap-19*
___ 02:40AM BLOOD ALT-16 AST-35 AlkPhos-67 TotBili-0.6
___ 02:40AM BLOOD Albumin-4.6 Calcium-10.2 Phos-3.8 Mg-2.1
___ 04:00PM BLOOD calTIBC-212* VitB12-877 Ferritn-51 
TRF-163*

LABS ON DISCHARGE:
==================
___ 05:05AM BLOOD WBC-5.8 RBC-4.64 Hgb-13.4 Hct-41.0 MCV-88 
MCH-28.9 MCHC-32.7 RDW-13.6 RDWSD-43.8 Plt ___
___ 05:05AM BLOOD Plt ___
___ 05:05AM BLOOD Glucose-101* UreaN-7 Creat-0.4 Na-140 
K-3.5 Cl-95* HCO3-31 AnGap-14
___ 05:05AM BLOOD Calcium-10.1 Phos-4.6* Mg-2.0

MICRO:
======

___ 2:00 am BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 

IMAGING:
========
___ KUB:
1. Gastrostomy tube balloon projects over the region of the 
gastric antrum. 
2. No evidence of gastrointestinal obstruction. 

___ G/GJ/GI TUBE CHECK:
Contrast administered through the G-tube demonstrates 
opacification of the 
stomach and duodenum, without evidence of leak.  No free air is 
identified.  A normal bowel gas pattern is seen.  There is a 
moderate amount of colonic stool. 

___ EGD:
Esophagus: Normal esophagus. 

Stomach:  
Contents: A PEG was found in the stomach body / antrum junction 
- this was in good position and not causing obstruction.  
Mucosa: Normal mucosa was noted in the whole stomach - the 
pylorus was widely patent. Cold forceps biopsies were performed 
for histology.  

Duodenum:  
Excavated Lesions A few superficial ulcers ranging in size from 
3 mm to 5 mm were found in the duodenal bulb.  

Impression: Foreign body in the stomach body
Normal mucosa in the whole stomach (biopsy)
Ulcers in the duodenal bulb
Otherwise normal EGD to third part of the duodenum 

Recommendations: Await pathology results
No findings on upper endoscopy to explain patient's symptoms.
Return patient to hospital ward. Follow-up with inpatient GI 
consult service. 

PATHOLOGY:
==========
___ Biopsy:
1. Stomach, biopsy:
- Corpus mucosa within normal limits.

 
Brief Hospital Course:
___ year old woman with past medical history significant for lung 
cancer s/p thoracic surgery, and radiation injury necessitating 
G-tube placement, who presented from ___ for inability to 
tolerate PO and G-tube intake. 

ACUTE ISSUE:
#Nausea and vomiting:
#Inability to tolerate feeding:
#Moderate protein calorie malnutrition on tube feeds:
KUB showed the G-tube was located in the stomach. GI was 
consulted; EGD and gastrograffin study were normal. Her symptoms 
were thought to be related to her inability to tolerate tube 
feeds boluses. She as able to tolerate continuous tube feeds at 
a slow rate with incremental increase up to 60 cc/hour. The 
ultimate plan is for overnight continuous tube feeds at a rate 
of 80cc/hour for 12 hours (total 960 cc/day), supplemented by 
protein frappes/shakes during the day as tolerated. Patient was 
instructed to slowly increase the rate of the tube feeds at home 
to reach the 80 cc/hour goal, and try to supplement during the 
day with a few hours of tube feeds to ensure she gets the total 
960 cc/day.

#Upper GI bleed: Coffee ground discharge was noted from the G 
tube. The EGD showed no acute abnormality, so this was likely 
post-biopsy bleeding that has not recurred. 

CHRONIC ISSUES:
=====================
#Hypertension: Continued Metoprolol.
 
#GERD: Continued PO ranitidine.

#Allergic rhinitis: Continued Flonase.

***TRANSITIONAL ISSUES:***
- Patient should follow-up with gastroenterology and nutrition 
as outpatient
- Make sure patient is tolerating tube feeds overnight and that 
she was able to reach the goal of 80cc/hour for 12 hours
- No tube feeds boluses
- Make sure she is gaining weight
- Patient wants to change her doctors in ___, please ensure 
communication with her new doctors in ___ to ensure 
appropriate follow-up when she leaves ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ranitidine 150 mg PO BID 
2. Metoprolol Succinate XL 12.5 mg PO DAILY 
3. Simvastatin 40 mg PO QPM 
4. Acetaminophen-Caff-Butalbital ___ TAB PO Q4H:PRN Headache 
5. Fluticasone Propionate NASAL 1 SPRY NU BID 

 
Discharge Medications:
1.  Cyanocobalamin 100 mcg SC DAILY 
RX *cyanocobalamin (vitamin B-12) [Vitamin B-12] 100 mcg 1 
tablet(s) by mouth once a day Disp #*30 Tablet Refills:*0 
2.  Multivitamins W/minerals Liquid 15 mL PO DAILY 
RX *multivitamin with minerals  15 mL by mouth once a day Disp 
#*1 Bottle Refills:*0 
3.  Ondansetron 4 mg PO Q8H:PRN nausea 
RX *ondansetron 4 mg 1 tablet(s) by mouth every eight (8) hours 
Disp #*20 Tablet Refills:*0 
4.  Thiamine 100 mg PO DAILY 
RX *thiamine HCl (vitamin B1) 100 mg 1 tablet(s) by mouth once a 
day Disp #*30 Tablet Refills:*0 
5.  Acetaminophen-Caff-Butalbital ___ TAB PO Q4H:PRN Headache 
Do not exceed 6 tablets/day  
6.  Fluticasone Propionate NASAL 1 SPRY NU BID  
7.  Metoprolol Succinate XL 12.5 mg PO DAILY  
8.  Ranitidine 150 mg PO BID  
9.  Simvastatin 40 mg PO QPM  
10.Tube feeds
Vital 1.5; Full strength
Tube Type: Percutaneous gastrostomy (PEG)
Goal rate: 80 ml/hour for 12 hours overnight
Flush with 150 mL water every 6 hours

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
___ Diagnosis:
PRIMARY DIAGNOSIS:
Moderate malnutrition

SECONDARY DIAGNOSIS:
Upper GI bleed
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear ___,

___ came to the hospital because of nausea, vomiting, and 
inability to tolerate your tube feeds. The gastroenterology team 
evaluated ___. A scope of your esophagus was normal. 

The reason for your symptoms is your inability to tolerate the 
tube feeds boluses. We made the following changes to your tube 
feeds:
- The ultimate goal is that ___ get your feeds overnight at a 
rate of 80cc/hour for 12 hours (for a total volume of 960 cc of 
tube feeds).
- ___ were able to tolerate slow increments of the rate of tube 
feeds, up to 60cc/hour in the hospital.
- Continue slow increments in the rate of the tube feeds at 
home. Until ___ reach the goal of 80 cc/hour, ___ can have 
additional hours of tube feeds during the day to make sure ___ 
are getting your daily nutrition requirements of 960cc of tube 
feeds.
- ___ should have 100cc of water flushes every 6 hours.
- No more boluses of tube feeds.
- Continue eating and drinking food at the consistency that ___ 
tolerate, and try to supplement with protein frappes.

We scheduled appointments with a new primary care provider and ___ 
gastroenterologist in ___. Your primary care provider ___ 
set ___ up with a nutritionist. Please make sure to follow-up 
with them as scheduled.

We wish ___ all the best in health.

Your ___ team
 
Followup Instructions:
___